US05238818
In 3 liters of methanol was dissolved 15 g of this 3,5-dimethyl-4-fluoro-1-nitrobenzene, and the resulting solution was treated with nitrogen to replace the air, after which 10 g of palladium carbon was added and catalytic reduction with hydrogen gas was carried out. After completion of the reaction, the insoluble materials were filtered off and the filtrate was concentrated to obtain 12.3 g of 3,5-dimethyl-4-fluoroaniline.

reactant | 3,5-dimethyl-4-fluoro-1-nitrobenzene | 15 g | CC=1C=C(C=C(C1F)C)[N+](=O)[O-] | C8H8FNO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 liters | CO | CH4O
catalyst | palladium carbon | 10 g | [C].[Pd]
product | 3,5-dimethyl-4-fluoroaniline | 12.3 g | CC=1C=C(N)C=C(C1F)C | C8H10FN
